US07332495B2
IV-18 N1-(4-nitrobenzyl)-N4-[(4-acetamido)phenacyl]piperazine dihydrochloride
A mixture of N-(4-nitrobenzyl)piperazine dihydrochloride (2.94 g, 10 mmol), N-[4-(2-chloroacetyl)phenyl]acetamide (2.37 g, 12 mmol) and anhydrous K2CO3 (4.83 g, 35 mmol) was treated according to general preparation 2 to give compound (IV-18), yield 74%, mp 228-230° C. M+ 396.

reactant | N-(4-nitrobenzyl)piperazine dihydrochloride | 10 mmol, 2.94 g | Cl.Cl.[N+](=O)([O-])C1=CC=C(CN2CCNCC2)C=C1
reactant | N-[4-(2-chloroacetyl)phenyl]acetamide | 12 mmol, 2.37 g | ClCC(=O)C1=CC=C(C=C1)NC(C)=O | C10H10ClNO2
reactant | K2CO3 | 35 mmol, 4.83 g | C(=O)([O-])[O-].[K+].[K+]
product | N1-(4-nitrobenzyl)-N4-[(4-acetamido)phenacyl]piperazine dihydrochloride | yield 74% | Cl.Cl.[N+](=O)([O-])C1=CC=C(CN2CCN(CC2)CC(=O)C2=CC=C(C=C2)NC(C)=O)C=C1 | InChI=1S/C21H24N4O4.2ClH/c1-16(26)22-19-6-4-18(5-7-19)21(27)15-24-12-10-23(11-13-24)14-17-2-8-20(9-3-17)25(28)29;;/h2-9H,10-15H2,1H3,(H,22,26);2*1H
